US05952355
3,4,5-Triethoxybenzoic acid (2.54 g) was dissolved in tetrahydrofuran (250 ml), and lithium aluminum hydride (1.20 g) was added thereto, followed by heating under reflux for 24 hours. Ethyl acetate and then a 2N aqueous solution of sodium hydroxide were added to the reaction solution, insoluble matters were filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (100 ml), and manganese dioxide (5.10 g) was added thereto, followed by stirring for 120 hours. Insoluble matters were filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (100 ml), and ethylmagnesium bromide (1M tetrahydrofuran solution, 15 ml) was added thereto, followed by stirring at room temperature for 30 minutes. 1N Hydrochloric acid was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in acetone (100 ml), and Jones' reagent (2 ml) was added thereto under ice-cooling, followed by stirring at the same temperature for 30 minutes. 2-Propanol (10 ml) was added to the reaction solution and the mixture was concentrated under reduced pressure. The residue was subjected to partitioning between ethyl acetate and water. The organic layer was washed with a saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3',4',5'-triethoxypropiophenone (0.76 g).

reactant | 3,4,5-Triethoxybenzoic acid | 2.54 g | C(C)OC=1C=C(C(=O)O)C=C(C1OCC)OCC | C13H18O5
reactant | lithium aluminum hydride | 1.20 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3',4',5'-triethoxypropiophenone | 0.76 g | C(C)OC=1C=C(C=C(C1OCC)OCC)C(CC)=O | C15H22O4
